### PR TITLE
feat(multivariate): add degree-bound and partial-evaluation primitives

### PR DESCRIPTION
**Pull request by codygunton**
## Summary

Adds the generic computable-polynomial facts that ArkLib's interaction-native protocol work builds on:

- `Multivariate/DegreeBound.lean` — degree-bound predicates (`IndividualDegreeLE`, `CDegreeLE`, `CMvDegreeLE`) on computable multivariate polynomials.
- `Multivariate/PartialEval.lean` — `partialEvalFirst` (fix variable `0`) with its evaluation lemma and per-variable degree-bound lemma.
- `Operations.lean` — the `fromCMvPolynomial_bind₁` bridge lemma (lives with the other `bind₁`/`fromCMvPolynomial_*` facts).

## Usage in ArkLib

- `DegreeBound` is used by the ArkLib oracle bridge (`ArkLib/Data/CompPoly/Basic.lean`, the core slice) and by the Sumcheck integration.
- `PartialEval` (`partialEvalFirst`) is used by the ArkLib Sumcheck slice.

## Scope

Follows CompPoly's concept-per-file layout. The sumcheck **round-polynomial** machinery (`roundPoly` and its summation/univariate-collapse helpers) deliberately does **not** live here — it is protocol-specific, has a single consumer, and lands in ArkLib's `ProofSystem/Sumcheck`. This PR keeps only the broadly-reusable primitives.

Supersedes #235 (closed). Rebased cleanly onto current `master`; full CompPoly build passes with no warnings.

🤖 Generated with [Claude Code](https://claude.com/claude-code)

### CODE REVIEW

File: CompPoly/Multivariate/DegreeBound.lean [hunk 1]
```diff
@@ -0,0 +1,42 @@
+/-
+Copyright (c) 2026 CompPoly Contributors. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: ArkLib Contributors
+-/
+import CompPoly.Multivariate.CMvPolynomial
+import CompPoly.Univariate.ToPoly.Impl
```
Comment (alexanderlhicks) [inline CompPoly/Multivariate/DegreeBound.lean:7]: **Unused import** *(verified: removal compiles)*. `CPolynomial.natDegree` lives in `CompPoly/Univariate/Basic.lean`, which is already transitively imported via `CompPoly.Multivariate.CMvPolynomial` — `ToPoly.Impl` pulls in the whole Mathlib `Polynomial` bridge for nothing.

File: CompPoly/Multivariate/DegreeBound.lean [hunk 2]
```diff
@@ -0,0 +1,42 @@
...
+
+Generic wrappers for computable univariate and multivariate polynomials bundled
+with degree bounds.
+-/
+
+open CPoly Std
+
+namespace CPoly.CMvPolynomial
+
+variable {n : ℕ} {R : Type} [CommSemiring R] [BEq R] [LawfulBEq R]
```
Comment (alexanderlhicks) [inline CompPoly/Multivariate/DegreeBound.lean:20]: **Typeclass assumptions much stronger than needed** *(verified: the minimized file compiles)*. Everything in this file needs only `[Zero R]`, and `R : Type*` matches the rest of the library:

```lean
variable {n : ℕ} {R : Type*} [Zero R]
...
def CDegreeLE (R : Type*) [Zero R] (d : ℕ) :=
  { p : CPolynomial R // p.natDegree ≤ d }

def CMvDegreeLE (R : Type*) [Zero R] (n d : ℕ) :=
  { p : CMvPolynomial n R // CMvPolynomial.IndividualDegreeLE (R := R) d p }
```

`CPolynomial`, `CMvPolynomial`, `natDegree`, and `Lawful.monomials` all require just `[Zero R]`. As written, every consumer must thread `BEq`/`LawfulBEq`/`CommSemiring` instances it doesn't need (per `docs/wiki/typeclass-minimization.md`). I checked the ArkLib consumer branch: relaxing is strictly safe — all use sites supply stronger instances. Suggest also adding these three definitions to `tests/CompPolyTests/Multivariate/TypeclassMinimization.lean` so the minimal assumptions are pinned.

File: CompPoly/Multivariate/DegreeBound.lean [hunk 3]
```diff
@@ -0,0 +1,42 @@
...
+
+/-- `p` has individual degree at most `deg` when every monomial exponent is
+bounded by `deg` in every coordinate. -/
+def IndividualDegreeLE (deg : ℕ) (p : CMvPolynomial n R) : Prop :=
+  letI := Classical.decEq R
```
Comment (alexanderlhicks) [inline CompPoly/Multivariate/DegreeBound.lean:25]: **Dead code** *(verified: removal compiles)*. Nothing in the body needs `DecidableEq R` — `Lawful.monomials` is a key list and `CMvMonomial.degreeOf` never touches `R`. This looks inherited from the ArkLib original; it embeds a spurious `let` in the definition that every consumer unfolds past.

Separately *(verified)*, the predicate is equivalent to a bound on the existing `CMvPolynomial.degreeOf`, and the connection is worth recording here so the new predicate plugs into the existing `degreeOf_equiv` bridge:

```lean
theorem individualDegreeLE_iff {deg : ℕ} (p : CMvPolynomial n R) :
    IndividualDegreeLE deg p ↔ ∀ i, CMvPolynomial.degreeOf i p ≤ deg := by
  unfold IndividualDegreeLE CMvPolynomial.degreeOf
  constructor
  · intro h i
    exact Finset.sup_le fun m hm => h i m (by simpa using hm)
  · intro h i m hm
    exact (Finset.le_sup (s := (Lawful.monomials p).toFinset)
      (f := fun m => CMvMonomial.degreeOf m i) (by simpa using hm)).trans (h i)
```

File: CompPoly/Multivariate/PartialEval.lean [hunk 4]
```diff
@@ -0,0 +1,184 @@
+/-
+Copyright (c) 2026 CompPoly Contributors. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: ArkLib Contributors
+-/
+import CompPoly.Data.MvPolynomial.Notation
+import CompPoly.Multivariate.DegreeBound
```
Comment (alexanderlhicks) [inline CompPoly/Multivariate/PartialEval.lean:7]: **Two unused imports** *(verified: removal compiles)*. Nothing in this file uses the `R[X σ]` notation, and nothing here references `IndividualDegreeLE` or the `DegreeBound` file. (If you adopt the `IndividualDegreeLE`-preservation corollary suggested below on the degree lemma, the `DegreeBound` import becomes genuinely used — otherwise both lines can go.)

File: CompPoly/Multivariate/PartialEval.lean [hunk 5]
```diff
@@ -0,0 +1,184 @@
...
+        Fin.cons a v := by
+    funext i
+    cases i using Fin.cases with
+    | zero => simp [fromCMvPolynomial_C]
+    | succ i => simp [fromCMvPolynomial_X]
+  rw [hc, hv]
+  exact (eval_equiv (p := p) (vals := Fin.cons a v)).symm
+
+/-! ## Degree preservation -/
+
```
Comment (alexanderlhicks) [inline CompPoly/Multivariate/PartialEval.lean:142]: **`[Nontrivial R]` can be dropped from this public lemma** *(verified: compiles)*. Over a subsingleton ring the statement is vacuous — a `Lawful` polynomial stores no zero coefficients, hence no monomials. The private helpers can keep their `[Nontrivial R]`:

```lean
theorem partialEvalFirst_degreeOf_le {deg : ℕ} (a : R)
    (i : Fin n) (p : CMvPolynomial (n + 1) R)
    (hDeg : ∀ mono ∈ Lawful.monomials p, mono.degreeOf i.succ ≤ deg) :
    ∀ mono ∈ Lawful.monomials (partialEvalFirst a p), mono.degreeOf i ≤ deg := by
  intro mono hmono
  rcases subsingleton_or_nontrivial R with hR | hR
  · have hmem : mono ∈ (partialEvalFirst a p).1 := by simpa using hmono
    have hne := (partialEvalFirst a p).2 mono
    rw [getElem?_pos _ _ hmem,
      Subsingleton.elim ((partialEvalFirst a p).1[mono]'hmem) 0] at hne
    exact absurd rfl hne
  · <original proof body>
```

This matters downstream: on the ArkLib consumer branch, `[Nontrivial R]` is threaded through `partialEvalFirst_individualDegreeLE`, `stepResidual`, and `SingleRound.lean`'s variable block **solely** to satisfy this hypothesis, over a generic `CommSemiring`.

Note I'm deliberately **not** suggesting restating this lemma via `CMvPolynomial.degreeOf` — that would break ArkLib's exact term-mode application at `Interaction/CompPoly.lean:30`. Instead, two additive corollaries *(both verified)* give the clean API with zero breakage:

```lean
theorem partialEvalFirst_degreeOf_le' {deg : ℕ} (a : R) (i : Fin n)
    (p : CMvPolynomial (n + 1) R) (h : CMvPolynomial.degreeOf i.succ p ≤ deg) :
    CMvPolynomial.degreeOf i (partialEvalFirst a p) ≤ deg := ...

theorem partialEvalFirst_individualDegreeLE {deg : ℕ} (a : R)
    (p : CMvPolynomial (n + 1) R) (h : IndividualDegreeLE deg p) :
    IndividualDegreeLE deg (partialEvalFirst a p) :=
  fun i => partialEvalFirst_degreeOf_le a i p (fun mono hmono => h i.succ mono hmono)
```

The second is exactly ArkLib's wrapper in `Interaction/CompPoly.lean` — upstreaming it lets ArkLib delete that wrapper.

File: CompPoly/Multivariate/Operations.lean [hunk 6]
```diff
@@ -454,6 +454,44 @@ attribute [grind =]
   aeval_C aeval_X aeval_add aeval_mul
   aeval_zero aeval_one aeval_pow aeval_neg aeval_sub
 
+
+/-- The computable substitution `bind₁` agrees with Mathlib substitution after
+transporting through `fromCMvPolynomial`. -/
+theorem fromCMvPolynomial_bind₁ {n m : ℕ} {R : Type*} [CommSemiring R] [BEq R]
+    [LawfulBEq R] (f : Fin n → CMvPolynomial m R) (p : CMvPolynomial n R) :
```
Comment (alexanderlhicks) [inline CompPoly/Multivariate/Operations.lean:461]: **Consider spelling the RHS with `MvPolynomial.aeval`** *(verified: compiles, no new import)*:

```lean
fromCMvPolynomial (bind₁ f p) =
  MvPolynomial.aeval (fun i => fromCMvPolynomial (f i)) (fromCMvPolynomial p)
```

This mirrors CompPoly's own `bind₁_eq_aeval` and is more discoverable than raw `eval₂ C`. (`MvPolynomial.bind₁` would be the most literal spelling, but it isn't in the current import closure — it lives in `Mathlib.Algebra.MvPolynomial.Monad`; the `aeval` form needs nothing new.) I checked there's no existing `fromCMvPolynomial_aeval`/`eval₂` bridge that makes this lemma redundant, so the proof is genuinely needed — a general `fromCMvPolynomial_eval₂` next to `eval₂_equiv` would subsume it and is nice follow-up material.

Nit: double blank line above the docstring (line 458).

**Review by alexanderlhicks — COMMENTED** [review]
## Review — validated against current master and the ArkLib consumer branch

**Verification performed** (all locally, with this diff applied):
- Full library build + full `lake test` pass on **v4.31.0** (master has bumped the toolchain since this PR's last CI run on v4.30.0; the PR is behind but merges cleanly, so re-merging is a formality).
- `#print axioms` on all 7 public declarations: only `propext`, `Classical.choice`, `Quot.sound` — TCB policy satisfied.
- `lint-style.sh` passes; `CompPoly.lean` regenerated correctly.
- Every inline suggestion below was **compile-checked** against this diff before posting.

**ArkLib cross-check** (consumer branch `cg/mainline-interaction-sumcheck-pr2`, tip `1617561d`, and the stacked pr3/pr4 tips):
- ArkLib currently carries local copies of `IndividualDegreeLE`/`CDegreeLE`/`CMvDegreeLE` in `ArkLib/Data/CompPoly/Basic.lean`; only `partialEvalFirst` and `partialEvalFirst_degreeOf_le` are consumed from the CompPoly package (`Interaction/CompPoly.lean:30`, `Interaction/SingleRound.lean:35-36`).
- `partialEvalFirst_eval` and `fromCMvPolynomial_bind₁` have no external consumers yet (both are still justified: the latter powers both `PartialEval` theorems, the former is the spec of the definition).
- Everything suggested inline is **strictly compatible** with the ArkLib call sites — notably, I deliberately do *not* suggest restating `partialEvalFirst_degreeOf_le` via `CMvPolynomial.degreeOf`, because that would break the exact term-mode application at `Interaction/CompPoly.lean:30`. Additive corollaries (see inline) give the clean API with zero breakage, and would let ArkLib delete its `partialEvalFirst_individualDegreeLE` wrapper and prune the `[Nontrivial R]` it threads through `SingleRound`.

**Not anchored inline:**
- *Namespace/naming*: `CompPoly.CDegreeLE`/`CMvDegreeLE` introduce the first non-test use of the `CompPoly` namespace (the library otherwise uses `CPoly`). Either choice works for ArkLib (use sites are unqualified under `open CompPoly CPoly`), so this is a deliberate maintainer call — worth a comment in the file either way. Also note the repo's existing degree-bound machinery is lowercase and `Set`-valued (`degreeLE`/`degreeLT` in `Univariate/Linear.lean`); `CDegreeLE` is the first `{p // natDegree ≤ d}` subtype. PascalCase-for-subtype is Mathlib-idiomatic, so this is defensible.
- *Headers*: `Authors: ArkLib Contributors` — repo convention is real names (the originals in ArkLib credit Quang Dao).
- *Tests*: `partialEvalFirst` is computable and `tests/CompPolyTests/Multivariate/` exists — a small evaluation regression test would fit. The new definitions should also be exercised in `tests/CompPolyTests/Multivariate/TypeclassMinimization.lean`, the repo's compile-time regression suite for minimal assumptions (relevant to the inline typeclass comment).
- *Follow-up golf (assessed, not required)*: the ~90 lines of private degree helpers reprove what Mathlib's `MvPolynomial.degreeOf_coeff_finSuccEquiv` provides; routing through it (plus a small `eval₂`↔`finSuccEquiv` bridge, which Mathlib lacks) should collapse the block to ~20-30 lines. Confirmed Mathlib has no `degreeOf_eval₂/bind₁/aeval` lemma, so the helpers are not redundant as written. Similarly, `MvPolynomial.eval_eval₂` shortens `partialEvalFirst_eval` slightly (validated at 15 lines vs 21).
- *ArkLib pin*: the consumer branch pins CompPoly to a fork rev (`codygunton/CompPoly @ 2ebbaac3`) not in upstream; the eventual migration needs a repin plus deletion of the local copies.

Overall: mathematically sound, kernel-safe, green on the current toolchain. The inline items are small and mechanical, each with a verified fix.

**Comment by dhsorens** [comment]
@codygunton just checking in on this PR?

**Comment by dhsorens** [comment]
closing this (see #315 )
